** sch_path: /home/ttuser/ttsky-analog-equalizer/xschem/CTLE_testbench.sch
**.subckt CTLE_testbench
V3 Vdd GND 1.8
V1 Vss GND 0
R1 vin+_bad vin+ 500 m=1
R2 vin-_bad vin- 500 m=1
C1 Vss vin+_bad 1p m=1
C2 vin-_bad Vss 1p m=1
V2 vin+ GND PULSE(0 1.8 0 50p 50p 0.5n 1n)
V4 vin- GND PULSE(1.8 0 0 50p 50p 0.5n 1n)
V5 vbias GND 0.8
R3 Vss vout+ 500 m=1
R4 Vss vout- 500 m=1
x1 vout+ vout- vin+_bad vin-_bad Vdd Vss vbias CTLE
**** begin user architecture code



.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.options method=gear reltol=0.001 abstol=1e-12
.control
  tran 10p 5n
  write CTLE_testbench.raw
.endc



**** end user architecture code
**.ends

* expanding   symbol:  CTLE.sym # of pins=7
** sym_path: /home/ttuser/ttsky-analog-equalizer/xschem/CTLE.sym
** sch_path: /home/ttuser/ttsky-analog-equalizer/xschem/CTLE.sch
.subckt CTLE vout+ vout- vin+ vin- VDD VSS vbias
*.iopin VDD
*.iopin VSS
*.ipin vin+
*.ipin vin-
*.ipin vbias
*.opin vout-
*.opin vout+
XM1 vout+ vin+ net1 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 vbias VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net2 vbias VSS VSS sky130_fd_pr__nfet_01v8 L=0.5 W=20 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 vout- vin- net2 VSS sky130_fd_pr__nfet_01v8 L=0.15 W=10 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XR1 vout+ VDD VSS sky130_fd_pr__res_high_po W=1 L=2 mult=1 m=1
XR2 net3 VDD net4 sky130_fd_pr__res_high_po W=1 L=2 mult=1 m=1
XR3 net1 net2 VSS sky130_fd_pr__res_high_po W=1 L=0.69 mult=1 m=1
XC2 net2 net1 sky130_fd_pr__cap_mim_m3_1 W=13 L=13 MF=1 m=1
.ends

.GLOBAL GND
.end
