** sch_path: /home/ttuser/Documents/ttsky-analog-equalizer/xschem/demux.sch
**.subckt demux
x5 vout0 vin clk VCC VSS VCC VSS LATCH
x6 vout1 vin clk VCC VSS VCC VSS LATCHI
V2 clk GND PULSE(0 1.8 0 20p 20p 0.48n 1n)
V4 vin GND PWL(0 0 20p 1.8 2n 1.8 2.02n 0 3n 0 3.02n 1.8 4n 1.8 4.02n 0)
**** begin user architecture code



*.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt
*.include /home/ttuser/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

.options method=gear reltol=0.001 abstol=1e-12
.op
.control
  tran 10p 10n
  write demux.raw
.endc




** opencircuitdesign pdks install
.lib /home/ttuser/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt


**** end user architecture code
**.ends
.GLOBAL GND
.end
